US07799775B2
A mixture of 207 mg of 2-[4-(4-quinolin-2-ylpiperazin-1-yl)-butyl]-3,1-benzoxazin-4-one as synthesized in above Step 7-15-B and 150 mg of benzylamine was stirred at 250° C. for an hour. Cooling the solution, the residue was purified on silica gel column chromatography (dichloromethane:methanol=15:1) to provide 163 mg (65%) of 3-benzyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-3H-quinazolin-4-one.

reactant | 2-[4-(4-quinolin-2-ylpiperazin-1-yl)-butyl]-3,1-benzoxazin-4-one | 207 mg | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCCC1=NC2=C(C(O1)=O)C=CC=C2 | C25H26N4O2
reactant | benzylamine | 150 mg | C(C1=CC=CC=C1)N | C7H9N
product | 3-benzyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-3H-quinazolin-4-one | 163 mg, 65% | C(C1=CC=CC=C1)N1C(=NC2=CC=CC=C2C1=O)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C32H33N5O
